US04424272
A solution of 100 g. of N,N-dimethylethylenediamine in 40 cc. of benzene was added dropwise to a stirring solution of 16.4 g. of 2-vinyl-4,4-dimethyl-5-oxazolone in 50 cc. of benzene. The oxazolone solution contained a few milligrams of t-butylhydroquinone as a polymerization inhibitor. An external water bath was used to maintain the resultant solution at about 25° C. The solution was stirred about 2 hours, filtered through Celite, and evaporated. The residue after evaporation was triturated with hexane and the mixture filtered to provide N-(N',N'-dimethyl-β-aminoethyl)-2-methyl-2-acrylamidopropanoic acid amide as a white solid.

reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
reactant | 2-vinyl-4,4-dimethyl-5-oxazolone | C(=C)C=1OC(C(N1)(C)C)=O | C7H9NO2
reactant | oxazolone | O1C(NC=C1)=O | C3H3NO2
reactant | t-butylhydroquinone | a few milligrams | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(N',N'-dimethyl-β-aminoethyl)-2-methyl-2-acrylamidopropanoic acid amide | CN(CCNC(C(C)(NC(C=C)=O)C)=O)C | C11H21N3O2
